US04281188
5 g (0.016 M) of 7-amino-6-chloro-5-(o-fluorophenyl) -1,3-dihydro-1-methyl-2H-1,4-benzodiazepin-2-one in 85 ml of absolute tetrahydrofuran are treated with 11.1 ml of chloroethylisocyanate and 1 ml of triethylamine. The mixture is stirred at room temperature for 1 week and heated at reflux for 5 hours. The mixture is treated with 50 ml of ethanol and concentrated. The residue is treated with methylene chloride/water and extracted several times with methylene chloride. The organic phase is separated, dried with sodium sulphate, filtered and concentrated. The residue is purified on a 300 g silica gel column using methylene chloride/ethyl acetate (3:1) as the eluting agent, there being obtained 1-(2-chloroethyl)-3-[6-chloro-5-(o-fluorophenyl)-2,3-dihydro-1-methyl-2-oxo-1H-1,4-benzodiazepin-7-yl]urea which is further processed directly.

reactant | 7-amino-6-chloro-5-(o-fluorophenyl) -1,3-dihydro-1-methyl-2H-1,4-benzodiazepin-2-one | 0.016 M, 5 g | NC=1C=CC2=C(C(=NCC(N2C)=O)C2=C(C=CC=C2)F)C1Cl | C16H13ClFN3O
reactant | chloroethylisocyanate | 11.1 ml | ClCCN=C=O | C3H4ClNO
reactant | triethylamine | 1 ml | C(C)N(CC)CC | C6H15N
reactant | ethanol | 50 ml | C(C)O | C2H6O
solvent | tetrahydrofuran | 85 ml | O1CCCC1 | C4H8O
product | 1-(2-chloroethyl)-3-[6-chloro-5-(o-fluorophenyl)-2,3-dihydro-1-methyl-2-oxo-1H-1,4-benzodiazepin-7-yl]urea | ClCCNC(=O)NC=1C=CC2=C(C(=NCC(N2C)=O)C2=C(C=CC=C2)F)C1Cl | C19H17Cl2FN4O2
